US08372865B2
To an ice cold solution of 352 mg of 5-methyl-6-nitroindole in 10 mL DMF was added drop wise 2.2 ml of 1M toluene solution of lithium hexamethyldisilazide. The solution was stirred for five minutes and 0.5 ml (1.1 equivalents) bromoethoxy dimethyl-t-butyl silane was added. The mixture was stirred at 0° C. for 30 minutes and then stirred for 4 hours at room temperature. Sulfate buffer (pH2) was added and the mixture was extracted with ethyl acetate. The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography to yield 300 mg of 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-6-nitro-1H-indole.

reactant | 5-methyl-6-nitroindole | 352 mg | CC=1C=C2C=CNC2=CC1[N+](=O)[O-] | C9H8N2O2
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | bromoethoxy dimethyl-t-butyl silane | 0.5 ml, 1.1 equivalents | BrCCO[Si](C(C)(C)C)(C)C | C8H19BrOSi
reactant | Sulfate | pH2 | S(=O)(=O)([O-])[O-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | toluene | 1M, 2.2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-6-nitro-1H-indole | 300 mg | C(C)(C)(C)[Si](OCCN1C=CC2=CC(=C(C=C12)[N+](=O)[O-])C)(C)C | C17H26N2O3Si
